US04978753
In the manner given in Example 21, carbonyldiimidazole, 6-diethylamino-2-hexynoic acid and 2-amino-7-nitro5-(2,6-difluorophenyl)-3H-1,4-benzodiazepine was stirred in tetrahydrofuran-dimethylformamide to give 9-nitro-1-(3-diethylaminopropyl)-7-(2,6-difluorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one.

reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 6-diethylamino-2-hexynoic acid | C(C)N(CCCC#CC(=O)O)CC | C10H17NO2
reactant | 2-amino-7-nitro5-(2,6-difluorophenyl)-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=C(C=CC=C1F)F)C=C(C=C2)[N+](=O)[O-] | C15H10F2N4O2
solvent | tetrahydrofuran dimethylformamide | O1CCCC1.CN(C=O)C
product | 9-nitro-1-(3-diethylaminopropyl)-7-(2,6-difluorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | [N+](=O)([O-])C=1C=CC2=C(C(=NCC=3N2C(=CC(N3)=O)CCCN(CC)CC)C3=C(C=CC=C3F)F)C1 | C25H25F2N5O3
